US08802700B2
A microwave vial charged with 6-nitro-5-(trifluoromethyl)-1H-indole (100 mg, 0.43 mmol), t-butyl bromide (30 mg, 0.22 mmol), zinc triflate (95 mg, 0.26 mmol), TBAI (80 mg, 0.22 mmol), DIEA (63 mg, 0.49 mmol) and toluene (1 mL) was sealed and heated in the microwave for 10 minutes at 120° C. The reaction mixture was quenched with water, the layers separated and the aqueous layer was extracted with DCM. The combined organic layer was dried over Na2SO4, filtered and concentrated. It was then purified by silica gel column chromatography using 0 to 20% EtOAc in hexanes to obtain 3-tert-butyl-6-nitro-5-(trifluoromethyl)-1H-indole. 1H NMR (400.0 MHz, CDCl3) δ 8.25 (s, 1H), 8.10 (s, 1H), 7.33 (d, J=2.5 Hz, 1H), 7.28 (s, 1H) and 1.50 (s, 9H) ppm.

reactant | 6-nitro-5-(trifluoromethyl)-1H-indole | 0.43 mmol, 100 mg | [N+](=O)([O-])C1=C(C=C2C=CNC2=C1)C(F)(F)F | C9H5F3N2O2
reactant | t-butyl bromide | 0.22 mmol, 30 mg | C(C)(C)(C)Br | C4H9Br
reactant | DIEA | 0.49 mmol, 63 mg | CCN(C(C)C)C(C)C | C8H19N
catalyst | TBAI | 0.22 mmol, 80 mg | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
catalyst | zinc triflate | 0.26 mmol, 95 mg | [O-]S(=O)(=O)C(F)(F)F.[Zn+2].[O-]S(=O)(=O)C(F)(F)F
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 3-tert-butyl-6-nitro-5-(trifluoromethyl)-1H-indole | C(C)(C)(C)C1=CNC2=CC(=C(C=C12)C(F)(F)F)[N+](=O)[O-] | C13H13F3N2O2
